US04968702
To a stirred solution of 34.8 g of 2-bromo-1-(2'-fluoro[1,1'-biphenyl]-4-yl)ethanone in 1600 ml of toluene was added 17.34 g of hexamethylenetetramine. The mixture was stirred at 60° C. for 4 hours and then cooled. The resulting solid was collected, washed with toluene and ether and dried, giving 48.7 g of 1-[2-(2'-fluoro[1,1'-biphenyl]-4-yl)-2-oxoethyl]-3,5,7-triaza-1-azoniatricyclo[3.3.1. 13,7 ]decane bromide as a white solid mp 174°-178° C.

reactant | 2-bromo-1-(2'-fluoro[1,1'-biphenyl]-4-yl)ethanone | 34.8 g | BrCC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)F | C14H10BrFO
reactant | hexamethylenetetramine | 17.34 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
solvent | toluene | 1600 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(2'-fluoro[1,1'-biphenyl]-4-yl)-2-oxoethyl]-3,5,7-triaza-1-azoniatricyclo[3.3.1. 13,7 ]decane bromide | 48.7 g | [Br-].FC1=C(C=CC=C1)C1=CC=C(C=C1)C(C[N+]12CN3CN(CN(C1)C3)C2)=O | InChI=1S/C20H22FN4O.BrH/c21-19-4-2-1-3-18(19)16-5-7-17(8-6-16)20(26)9-25-13-22-10-23(14-25)12-24(11-22)15-25;/h1-8H,9-15H2;1H/q+1;/p-1
